US07705053B2
Trifluoroacetic acid (1 mL) was added to 20 mg of N-[(S)-2-t-butoxy-1-(2-hydroxyethylcarbamoyl)ethyl]-4-methoxy-3-[(E)-2-(4-trifluoromethoxyphenyl)vinyl]-benzamide and the mixture was stirred for 20 minutes at room temperature. After removal of the solvent, the resulting residue was purified using a micromass spectrometer (ZMD produced by Micromass) equipped with a gradient high-performance liquid chromatograph 996-600E produced by Waters. The resulting solid was dried under reduced pressure to obtain 9 mg (57%) of N-[(S)-2-hydroxy-1-(2-hydroxyethylcarbamoyl)ethyl]-4-methoxy-3-[(E)-2-(4-trifluoromethoxyphenyl)vinyl]benzamide.

reactant | Trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-[(S)-2-t-butoxy-1-(2-hydroxyethylcarbamoyl)ethyl]-4-methoxy-3-[(E)-2-(4-trifluoromethoxyphenyl)vinyl]-benzamide | 20 mg | C(C)(C)(C)OC[C@@H](C(NCCO)=O)NC(C1=CC(=C(C=C1)OC)\C=C\C1=CC=C(C=C1)OC(F)(F)F)=O | C26H31F3N2O6
product | N-[(S)-2-hydroxy-1-(2-hydroxyethylcarbamoyl)ethyl]-4-methoxy-3-[(E)-2-(4-trifluoromethoxyphenyl)vinyl]benzamide | 9 mg, 57% | OC[C@@H](C(NCCO)=O)NC(C1=CC(=C(C=C1)OC)\C=C\C1=CC=C(C=C1)OC(F)(F)F)=O | C22H23F3N2O6
